US09421205B2
(c) Ethyl 2-(3-ethynylpyrazin-2-yl)acetate (I101)
Ethyl 2-(3-((trimethylsilyl)ethynyl)pyrazin-2-yl)acetate (I100) (0.386 g, 1.47 mmol) in THF (15 mL) was cooled to 0° C. and a 1.0 M solution of TBAF in THF (1.84 mL, 1.84 mmol) was added. The mixture was stirred for two minutes then poured into water (150 mL). The resulting mixture was extracted with diethyl ether (2×150 mL) and the combined ether phases washed with brine, dried (sodium sulphate) and evaporated to give the title compound (I101) (0.209 g, 75% yield) as a yellow-brown oil; 1H NMR (400 MHz, CDCl3) δ 8.50-8.47 (m, 2H), 4.21 (q, J=7.1 Hz, 2H), 4.08 (s, 2H), 3.49 (s, 1H), 1.26 (t, J=7.1 Hz, 3H). LCMS Method C: rt 4.88 min; m/z 191.1 [M+H]+.

reactant | Ethyl 2-(3-((trimethylsilyl)ethynyl)pyrazin-2-yl)acetate | 1.47 mmol, 0.386 g | C[Si](C)(C)C#CC=1C(=NC=CN1)CC(=O)OCC | C13H18N2O2Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | water | 150 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 1.84 mmol, 1.84 mL | C1CCOC1 | C4H8O
product | Ethyl 2-(3-ethynylpyrazin-2-yl)acetate | 0.209 g, 75% yield | C(#C)C=1C(=NC=CN1)CC(=O)OCC | C10H10N2O2
